US09169254B2
(4-Bromo-2-iodo-5-methyl-phenyl)-carbamic acid methyl ester (605 mg, 1.64 mmol) was dissolved in THF (6 ml). (Trimethylsilyl)acetylene (0.70 ml, 4.95 mmol), copper iodide (33.5 mg, 0.175 mmol), Pd(PPh3)2Cl2 (56.5 mg, 0.081 mmol) and triethylamine (0.690 ml, 4.95 mmol) were added and the mixture was stirred at room temperature for four hours. Water was added to the reaction system, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to give (4-bromo-5-methyl-2-trimethylsilanylethynyl-phenyl)-carbamic acid methyl ester (548 mg, 98%).

reactant | (4-Bromo-2-iodo-5-methyl-phenyl)-carbamic acid methyl ester | 1.64 mmol, 605 mg | COC(NC1=C(C=C(C(=C1)C)Br)I)=O | C9H9BrINO2
reactant | (Trimethylsilyl)acetylene | 4.95 mmol, 0.70 ml | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 4.95 mmol, 0.690 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
catalyst | copper iodide | 0.175 mmol, 33.5 mg | [Cu](I)I
catalyst | Pd(PPh3)2Cl2 | 0.081 mmol, 56.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (4-bromo-5-methyl-2-trimethylsilanylethynyl-phenyl)-carbamic acid methyl ester | 548 mg, 98% | COC(NC1=C(C=C(C(=C1)C)Br)C#C[Si](C)(C)C)=O | C14H18BrNO2Si
